US05538988
A mixture of 2-isothiocyano-1,2,3,4-tetrahydronaphthalene (1.92 g, 10.1 mmol), prepared as in Example 10, and aminoacetonitrile hydrochloride (0.94 g, 10.1 mmol) in 1.41 mL of triethylamine was heated at 60° C. for 1 hour. The solvent was evaporated and the residue was purified by flash chromatography (elution: methylene chloride followed by 3% methanol in methylene chloride). The purified residue was recrystallized from ethyl acetate/hexane. The residue (1.06 g) and 44 mL of 0.1N potassium hydroxide was stirred under nitrogen for 15 minutes. The residue was isolated by filtration, washed with water, air dried and then stirred with methylene chloride. Filtration and drying gave 5-amino-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione, m.p. 169°-171° C.

reactant | 2-isothiocyano-1,2,3,4-tetrahydronaphthalene | 10.1 mmol, 1.92 g | N(=C=S)C1CC2=CC=CC=C2CC1 | C11H11NS
reactant | aminoacetonitrile hydrochloride | 10.1 mmol, 0.94 g | Cl.NCC#N
solvent | triethylamine | 1.41 mL | C(C)N(CC)CC | C6H15N
product | 5-amino-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | NC1=CNC(N1C1CC2=CC=CC=C2CC1)=S | C13H15N3S
